US08895571B2
Step A: tert-butyl[(1S)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]carbamate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propanoic acid [Aldrich] (3.00 g, 9.96 mmol) in tetrahydrofuran (30 mL) at 0° C. was added 1.0 M borane-THF complex in tetrahydrofuran (32 mL, 32 mmol). The reaction mixture was stirred at room temperature for 3 hrs, and then cooled with an ice bath, quenched with AcOH:MeOH (1:5, 10 mL), and partitioned between saturated aqueous NaHCO3 solution and dichloromethane (DCM). The aqueous phase was then extracted several times with DCM. The combined organic fractions were dried over Na2SO4 and concentrated under reduced pressure. The residue was used directly for the next reaction. LCMS (ES) m/e 288.1 (M+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propanoic acid | 9.96 mmol, 3.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC(=C1)F)F | C14H17F2NO4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 mmol, 32 mL | O1CCCC1 | C4H8O
product | tert-butyl[(1S)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]carbamate | C(C)(C)(C)OC(N[C@H](CO)CC1=CC(=CC(=C1)F)F)=O | C14H19F2NO3
